### ISSUE TITLE
Refactoring notes for #358: `iterToList_map_acc` → `iterToList_trans`

### ISSUE THREAD

**Issue by Zhang-Liao** [Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify#360]
Notes on the refactoring carried out in #358, for
`Spqr/Specs/Encoding/Polynomial/ConstPolysToPolys/SliceIterMapCollect.lean` (321 → 152 lines).

## The idea

The old `iterToList_map_acc` carries the iterator around as an **abstract parameter plus a
hypothesis**, so every unfolding step has to re-derive how `next` behaves and how the state was
rebuilt. The new `iterToList_trans` states the induction about the **concrete** iterator that
actually occurs in the goal, so unfolding one step is delegated to an already-registered
rewrite rule and the per-step obligations disappear.

## Before: the iterator is a hypothesis

```lean
private theorem iterToList_map_acc
    (n : Nat) (m : MapIterT N) (acc : List Poly)
    (h_n : n = m.iter.slice.val.length - m.iter.i)
    (mapIterInst : core.iter.traits.iterator.Iterator (MapIterT N) Poly)   -- abstract
    (h_next : mapIterInst.next = fun m' => do ...)                          -- 12-line equation
```

`Self = MapIterT N`, i.e. the threaded state is the whole `Map` struct — cursor *and* closure.
The step lemma therefore looks like this (`main`, lines 96–106):

```lean
have h_step : iterToList mapIterInst m acc = iterToList mapIterInst m' (result_cm.1 :: acc) := by
  conv_lhs => unfold alloc.vec.FromIteratorVec.iterToList
  rw [h_next]                    -- ← rewrite by the carried hypothesis to learn what next does
  simp only [slice.iter.IteratorSliceIter.next, Slice.len, Usize.ofNatCore_val_eq, h_lt,
    ↓reduceDIte, bind_tc_ok, uncurry_apply_pair, bind_assoc]
  unfold CoreOpsFunctionFnMutTupleSharedPolyConstPoly.call_mut
  simp only [bind_assoc, bind_tc_ok, uncurry_apply_pair]
  rw [← h_f]                     -- ← re-align the closure component of the state
  exact to_poly_of_call_mut_eq h_cm_eq ▸ rfl
```

and the successor state has to be constructed and then described by hand (lines 91–95):

```lean
set m' : MapIterT N := Map.mk (Iter.mk m.iter.slice (m.iter.i + 1)) result_cm.2
have hm'_slice : m'.iter.slice = m.iter.slice := rfl
have hm'_i : m'.iter.i = m.iter.i + 1 := rfl
```

Because `m'` is an opaque `set`-bound local containing `result_cm.2` (a projection of the
`call_mut` result), those two equations then have to be rewritten back in at every use —
lines 107–108, 114, 124–125, 127 — and the index arithmetic needs `congr 1; ext; grind`, once
per conjunct, at lines 131–133 and 137–139.

## After: the iterator is a concrete term with a registered `next` rule

```lean
private abbrev transInst {N : Usize} (m : MapIterT N) :
    core.iter.traits.iterator.Iterator (core.slice.iter.Iter (PolyConst N)) Poly :=
  core.iter.adapters.map.mapIteratorTransformer m
    (core.iter.traits.iterator.IteratorSliceIter (PolyConst N))
    (CoreOpsFunctionFnMutTupleSharedPolyConstPoly N)

private theorem iterToList_trans (n : Nat) (m : MapIterT N)
    (iter : core.slice.iter.Iter (PolyConst N)) (acc : List Poly)
    (h_n : n = iter.slice.val.length - iter.i) : ...
  induction n generalizing iter acc with     -- `m` is NOT generalized
```

`Self = Iter (PolyConst N)`: the threaded state is only the slice cursor, and the closure sits
fixed inside the instance. `mapIteratorTransformer.next` already has a spec lemma in the repo,
`mapIteratorTransformer_next_spec` in `Spqr/Specs/Aeneas/MapIteratorTransformerNext.lean`,
tagged `@[simp, step_simps]` — i.e. it is in the simp set that the `step` tactic uses. So the
step lemma just names it in the `simp only` list and the next state is computed rather than
derived:

```lean
have h_step : iterToList (transInst m) iter acc
            = iterToList (transInst m) ⟨iter.slice, iter.i + 1⟩ (r.1 :: acc) := by
  conv_lhs => unfold alloc.vec.FromIteratorVec.iterToList
  simp only [transInst, mapIteratorTransformer_next_spec, Usize.ofNatCore_val_eq,
    slice.iter.IteratorSliceIter.next, Slice.len, h_lt, ↓reduceDIte, bind_tc_ok]
  unfold CoreOpsFunctionFnMutTupleSharedPolyConstPoly.call_mut
  simp only [bind_assoc, bind_tc_ok, uncurry_apply_pair]
  exact to_poly_of_call_mut_eq h_cm ▸ rfl
```

Both `rw [h_next]` and `rw [← h_f]` are gone, and the successor state is the literal
`⟨iter.slice, iter.i + 1⟩` whose projections reduce by themselves — so `hm'_slice`, `hm'_i`,
their six rewrite sites, and both `grind` calls are gone too. One `hidx` hypothesis plus
`omega` now serves both conjuncts.

Note `rw [← h_f]` relied on `call_mut_spec`'s third conjunct `result.2 = c`. The new proof
discards it outright (`obtain ⟨r, h_cm, h_coeff, h_poly, -⟩`): whether the model threads the
updated closure `f'` is a property of `mapIteratorTransformer` fixed in
`SrcTranslated/FunsExternal.lean`, not something a `collect` spec has to re-establish.

## Why the instance may be concrete

`Map.Insts.CoreIterTraitsIteratorIterator.collect` is *defined* in terms of
`mapIteratorTransformer` (`SrcTranslated/FunsExternal.lean:505`), so after
`simp only [collect_spec]` the `Map`-state instance never appears in the goal at all. The old
proof therefore needed a second lemma, `iterToList_mapTrans_eq_custom` (~88 lines), which is a
second copy of the same induction whose only job is to transfer from the `Map`-state instance
back to the transformer. Stating the induction about the transformer directly removes both the
abstract instance and the bridge.

The reason the direct route works is that `m` plays only one role inside
`mapIteratorTransformer`: it supplies the fixed closure `m.f` (the definition reads `map.f` and
nothing else). Splitting that from the advancing cursor into two separate parameters, and
generalizing only `iter`/`acc`, keeps the instance in the induction hypothesis *syntactically
identical* to the one in the goal — which mirrors `iterToList`'s own recursion, where the
`iterInst` argument is passed through unchanged.

## Knock-on effect in the wrapper theorem (57 → 10 tactic lines)

Since `iterToList_trans`'s conclusion is the goal's term, the bridge call disappears along with
both 15-line anonymous instance literals (`{next := …, step_by := …, enumerate := …,
take := …}`, spelled out twice in the old proof to instantiate `mapIterInst`). Obtaining
`hL : iterToList … = ok L` before touching the goal also means `rw [hL]` collapses the bind to
`ok L`, so the `dif` on `L.length ≤ Usize.max` closes with a single
`simp only [bind_tc_ok, hmax, ↓reduceDIte, WP.spec_ok]` — no `WP.spec_bind`, no hand-written
9-line intermediate predicate `Pₘ`, no `split`, no second branch.

## Summary

| | before | after |
|---|---|---|
| iterator in the induction | abstract param + `h_next` | concrete `transInst m` |
| threaded state | `MapIterT N` (cursor + closure) | `Iter (PolyConst N)` (cursor) |
| unfolding one step | `rw [h_next]` then `simp only` | `mapIteratorTransformer_next_spec` in the `simp only` list |
| per-step state facts | `hm'_slice`, `hm'_i` + 6 rewrite sites | none (projections reduce) |
| index arithmetic | `congr 1; ext; grind` ×2 | one `hidx` + `omega` |
| closure alignment | `rw [← h_f]` | not needed |
| inductive lemmas | ~95 + ~88 lines | ~56 lines |
| wrapper theorem | 57 tactic lines | 10 |
| file | 321 lines | 152 |

Same theorem and same imports; the only statement change is dropping a postcondition antecedent
that duplicated the `hs` binder verbatim, which makes it marginally stronger. `lake build` and
`lake exe runLinter Spqr` pass, and the spec still depends only on `propext`,
`Classical.choice`, `Quot.sound`.
